US05998433
c) Synthesis of N,N-dimethyl-[6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepin-2-ylmethyl]amine 0.156 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | N,N-Dimethyl-[6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepin-2-ylmethyl]amine | 0.156 g | CN(C)CC1=CC2=C(CCN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C25H26N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CCN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | InChI=1S/C25H26N2O3.ClH/c1-26(2)17-22-16-21-12-14-27(15-13-23(21)30-22)25(29)20-10-8-19(9-11-20)24(28)18-6-4-3-5-7-18;/h3-11,16H,12-15,17H2,1-2H3;1H
